US04517195
1-Amino-2-(2-fluorobenzoyl)pyrrole
To a suspension of 2-(2-fluorobenzoyl)-1-phthalimidopyrrole (12.5 g, 27 mmole) in 40 ml DMF was added 40 ml methylamine (40% solution in water). After stirring one hour at ambient temperature, the reaction mixture was diluted with water and extracted with ether. The organic extract was washed with water and with saturated NaCl solution, dried over anhydrous MgSO4, filtered and evaporated to 9 g oil, half of which was purified by Kugelrohr distallation (120°-130° at 0.2 mm Hg) to give 3.5 g (93%) solid, m.p. 44°-47°.

reactant | 2-(2-fluorobenzoyl)-1-phthalimidopyrrole | 27 mmole, 12.5 g | FC1=C(C(=O)C=2N(C=CC2)N2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1 | C19H11FN2O3
reactant | methylamine | 40 ml | CN | CH5N
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-Amino-2-(2-fluorobenzoyl)pyrrole | 3.5 g, 93% | NN1C(=CC=C1)C(C1=C(C=CC=C1)F)=O | C11H9FN2O
